US04156780
Preparation of 3-pyridylmethyl N-(4-cyanophenyl)thiocarbamate
To a solution of 3-pyridylcarbinol (2.18g., 0.02 mole) in 50 ml. of glyme there is added sodium hydride (0.87g. of a 57% oil dispersion, 0.02 mole). The solution is allowed to stand 2 hrs. and then p-cyanophenyl isothiocyanate (3.2g., 0.02 mole) in 50 ml. of glyme is added dropwise. The reaction mixture is stirred at room temperature for 18 hrs. It is then saturated with sodium bicarbonate and poured into an excess of water. The resulting suspension is filtered to give a solid residue which is recrystallized from toluene to give 2.3g. of solid melting at 153°-154° C., with decomposition. The thiourea structure is confirmed by infra-red spectroscopy. The product is obtained in a 43.5% yield.

reactant | 3-pyridylcarbinol | 0.02 mole, 2.18g | N1=CC(=CC=C1)CO | C6H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | p-cyanophenyl isothiocyanate | 0.02 mole, 3.2g | C(#N)C1=CC=C(C=C1)N=C=S | C8H4N2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | thiourea | NC(=S)N | CH4N2S
solvent | water | O | H2O
solvent | glyme | C(OC)COC | C4H10O2
product | 3-pyridylmethyl N-(4-cyanophenyl)thiocarbamate | 43.5% yield | C(#N)C1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=S | C14H11N3OS
